US08865726B2
A mixture of 2-(tert-butyldimethylsilyloxy)acetaldehyde (54.64 mL, 258.2 mmol) in DCM (500 mL) was treated with (S)-2-methylpropane-2-sulfinamide (34.42 g, 284.0 mmol), followed by copper sulfate (103.0 g, 645.4 mmol) at ambient temperature. After stirring for 48 hours, the mixture was filtered through Celite and washed with DCM. The mixture was concentrated and purified on silica gel (10-30% EtOAc in hexane) to provide (S,E)-N-(2-(tert-butyldimethylsilyloxy)ethylidene)-2-methylpropane-2-sulfinamide (67.3 g, 94% yield).

reactant | 2-(tert-butyldimethylsilyloxy)acetaldehyde | 258.2 mmol, 54.64 mL | [Si](C)(C)(C(C)(C)C)OCC=O | C8H18O2Si
reactant | (S)-2-methylpropane-2-sulfinamide | 284.0 mmol, 34.42 g | CC(C)(C)[S@](=O)N | C4H11NOS
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
catalyst | copper sulfate | 645.4 mmol, 103.0 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | (S,E)-N-(2-(tert-butyldimethylsilyloxy)ethylidene)-2-methylpropane-2-sulfinamide | 67.3 g, 94% yield | [Si](C)(C)(C(C)(C)C)OC\C=N\[S@@](=O)C(C)(C)C | C12H27NO2SSi
